US08357679B2
B: 2-(4-Bromo-3-propylphenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
2-(4-Amino-3-propylphenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (33.2 mmol, 10 g) was dissolved in dioxane (15 mL) and water (30 mL) was added. The suspension was heated to reflux then hydrobromic acid (48% weight in water, 149 mmol, 17 mL) was added drop wise via an addition funnel over a 20 minute period. The mixture was heated for a further 20 minutes before cooling to 0° C. A solution of sodium nitrite (33.2 mmol, 2.290 g) in water (30 mL) was added to the mixture over a 30 minute period and the mixture stirred at 0° C. for 30 minutes. A solution of copper (I) bromide (38.2 mmol, 5.48 g) in water (30 mL) and hydrobromic acid (48% weight in water, 149 mmol, 17 mL) was added drop wise to the mixture over a 20 minute period at 0° C. and the mixture was allowed to stir at 0° C. for 20 minutes. The mixture was warmed to 60° C. for 20 minutes then allowed to stir at room temperature overnight. The reaction mixture was extracted with diethyl ether (3×100 mL), the organic phase was dried over magnesium sulfate, filtered and the filtrate was concentrated under vacuum. The resulting residue was purified by silica gel column chromatography (eluting with 10% ethyl acetate/90% heptane) to afford the title compound (6.1 g). MS (ESI) m/z 365.5 [M−H]

reactant | 2-(4-Amino-3-propylphenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 33.2 mmol, 10 g | NC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)CCC | C12H13F6NO
reactant | hydrobromic acid | 149 mmol, 17 mL | Br | BrH
reactant | sodium nitrite | 33.2 mmol, 2.290 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 149 mmol, 17 mL | Br | BrH
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | water | 30 mL | O | H2O
solvent | water | 30 mL | O | H2O
catalyst | copper (I) bromide | 38.2 mmol, 5.48 g | [Cu]Br
solvent | water | 30 mL | O | H2O
product | 2-(4-Bromo-3-propylphenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 6.1 g | BrC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)CCC | C12H11BrF6O
